US05420275
8-Amino-5-methoxy-7-methylpyrido[3,4-d]pyridazine-1,4(2H,3H)dione (L-018)
In 8 ml of methanol was dissolved 280 mg of 3-amino-4,5-dimethoxycarbonyl-6-methoxy-2-methylpyridine, and then 0.54 ml (10 eq.) of hydrazine monohydrate was added to the solution. The mixture was refluxed. The resulting crystals were collected by filtration and washed with methanol. The crystals were suspended in water, and the suspension was acidified with hydrochloric acid. The crystals were collected by filtration and washed with water.

reactant | 3-amino-4,5-dimethoxycarbonyl-6-methoxy-2-methylpyridine | 280 mg | NC=1C(=NC(=C(C1C(=O)OC)C(=O)OC)OC)C | C11H14N2O5
reactant | hydrazine monohydrate | 0.54 ml, 10 eq. | O.NN
solvent | methanol | 8 ml | CO | CH4O
product | 8-Amino-5-methoxy-7-methylpyrido[3,4-d]pyridazine-1,4(2H,3H)dione | NC1=C(N=C(C=2C(NNC(C21)=O)=O)OC)C | C9H10N4O3
